US06706663B2
Preparation of 3-[3-(3,6-Dihydro-4,6,6-trimethyl-2H-pyran-2-yl)-1,2-benzisothiazol-5-yl]-1-methyl-6-(trifluoromethyl)uracil
A mixture of 5-[3,6-dihydro-3-methyl-2,6-dioxo-4-(trifluoromethyl)-1(2H)-pyrimidinyl]-1, 2-benzisothiazole-3-carboxaldehyde(0.500 g, 0.00141 mol), 2,4-dimethyl-2,4-pentanediol (0.260 g, 0.00183 mol), p-toluenesulfonic acid (0.0100 g, 0.000071 mol) and toluene is stirred overnight at reflux with azeotropic removal of water. The mixture is cooled to room temperature, diluted with diethyl ether and ethyl acetate and washed with two prortions of water and brine. The organic layer is dried and concentrated in vacuo to a brown oil, which is chromatographed on silica gel with ethyl acetate-hexanes to afford the title compound as a white solid (0.200 g, 31.4%, mp 88-92° C.) which is characterized by NMR spectral analysis.

reactant | 5-[3,6-dihydro-3-methyl-2,6-dioxo-4-(trifluoromethyl)-1(2H)-pyrimidinyl]-1, 2-benzisothiazole-3-carboxaldehyde | 0.00141 mol, 0.500 g | CN1C(N(C(C=C1C(F)(F)F)=O)C=1C=CC2=C(C(=NS2)C=O)C1)=O | C14H8F3N3O3S
reactant | 2,4-dimethyl-2,4-pentanediol | 0.00183 mol, 0.260 g | CC(C)(CC(C)(O)C)O | C7H16O2
reactant | p-toluenesulfonic acid | 0.000071 mol, 0.0100 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | toluene | C1(=CC=CC=C1)C | C7H8
solvent | diethyl ether | C(C)OCC | C4H10O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
product | 3-[3-(3,6-Dihydro-4,6,6-trimethyl-2H-pyran-2-yl)-1,2-benzisothiazol-5-yl]-1-methyl-6-(trifluoromethyl)uracil | 0.200 g, 31.4% | CC=1CC(OC(C1)(C)C)C1=NSC2=C1C=C(C=C2)N2C(N(C(=CC2=O)C(F)(F)F)C)=O | C21H20F3N3O3S
